US06313122B1
A. 2-Nitro-N-(2-fluorophenyl)benzamide
Using the procedure described in Example 93, Part A, 2-fluoroaniline (20.7 mmol) and 2-nitrobenzoyl chloride (22.8 mmol) yielded 3.78 g (70%) of the title compound.

reactant | 2-fluoroaniline | 20.7 mmol | FC1=C(N)C=CC=C1 | C6H6FN
reactant | 2-nitrobenzoyl chloride | 22.8 mmol | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
product | 2-Nitro-N-(2-fluorophenyl)benzamide | 3.78 g, 70% | [N+](=O)([O-])C1=C(C(=O)NC2=C(C=CC=C2)F)C=CC=C1 | C13H9FN2O3
